US05041453
To a stirred solution of methyl 5-hydroxy-3-methyl-benzo(b)thiophene-2-carboxylate (878.6 mg, 3.96 mmol) in dry DMF (20 ml) at room temperature is added sodium hydride (158 mg, 3.95 mmol) as a 60% dispersion in mineral oil. After 30 minutes of stirring 3-(2-quinolinylmethoxy)benzyl chloride (1.02 g, 3.60 mmol) is added. The solution is stirred at room temperature for 4 hours and quenched with ice-water. Extraction with ethyl acetate, washing with aqueous sodium carbonate, water and brine is followed by drying (MgSO4) and concentration. The residue is subjected to flash chromatography on silica gel. Elution with 25% ether in hexane affords methyl-3-methyl-5-[3-(2-quinolinylmethoxy)benzyloxy]benzo(b) -thiophene-2-carboxylate.

reactant | methyl 5-hydroxy-3-methyl-benzo(b)thiophene-2-carboxylate | 3.96 mmol, 878.6 mg | OC1=CC2=C(SC(=C2C)C(=O)OC)C=C1 | C11H10O3S
reactant | sodium hydride | 3.95 mmol, 158 mg | [H-].[Na+]
reactant | 3-(2-quinolinylmethoxy)benzyl chloride | 3.60 mmol, 1.02 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(CCl)C=CC1 | C17H14ClNO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | methyl-3-methyl-5-[3-(2-quinolinylmethoxy)benzyloxy]benzo(b) -thiophene-2-carboxylate | COC(=O)C1=C(C2=C(S1)C=CC(=C2)OCC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2)C | C28H23NO4S
